US06025370
In 254 ml of N,N-dimethylformamide was dissolved 25.4 g of 2,6-difluorophenol, followed by adding thereto 29.7 g of potassium carbonate and 83.1 g of iodomethane, and the resulting mixture was stirred at 50° C. for 2 hours. The reaction mixture was added to a mixed solvent of 200 ml of diethyl ether and 600 ml of water and the organic layer was separated. The organic layer obtained was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The resulting residue was purified by vacuum distillation (43-45° C./20 mmHg) to obtain 22.9 g of 2,6-difluoroanisole as a colorless oil.

reactant | 2,6-difluorophenol | 25.4 g | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | potassium carbonate | 29.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 83.1 g | IC | CH3I
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 254 ml | CN(C=O)C | C3H7NO
solvent | water | 600 ml | O | H2O
product | 2,6-difluoroanisole | 22.9 g | FC1=C(C(=CC=C1)F)OC | C7H6F2O
